US07691850B2
a) (±)-1,1-dimethylethyl cis-3-cyano-4-fluoro-1-pyrrolidinecarboxylate
To a stirred solution of (±)-1,1-dimethylethyl trans-3-cyano-4-[(trimethylsilyl)oxy]-1-pyrrolidinecarboxylate (1.0 g, 3.52 mmole), in DCM (50 mL) at −78° C. was added DAST dropwise (0.90 mL, 7.40 mmole). After 3 h, Aqueous Na2CO3 was added to the reaction solution and the layers separated. The organic layer was dried over Na2SO4 and concentrated under vacuum. Purification on silica (hexanes/EtOAc, 1:1) provided the title compound (0.51 g, 67%) as a colorless oil: LC-MS (ES) m/e 215 (M+H)+.

reactant | (±)-1,1-dimethylethyl trans-3-cyano-4-[(trimethylsilyl)oxy]-1-pyrrolidinecarboxylate | 3.52 mmole, 1.0 g | C(#N)[C@@H]1CN(C[C@H]1O[Si](C)(C)C)C(=O)OC(C)(C)C | C13H24N2O3Si
reactant | DAST | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (±)-1,1-dimethylethyl cis-3-cyano-4-fluoro-1-pyrrolidinecarboxylate | 0.51 g, 67% | C(#N)[C@@H]1CN(C[C@@H]1F)C(=O)OC(C)(C)C | C10H15FN2O2
